US06504058B1
Preparation of (R)-3-chloro-N-[1-(4-chlorophenyl)ethyl]-3-methyl-1-(trifluoromethyl)cyclobutanecarboxamide
A solution of 0.240 g (1.11 mmol) of 3-chloro-3-methyl-1-(trifluoromethyl)cyclobutane carboxylic acid (prepared according to the method described by H. K. Hall, Jr., E. P. Blanchard Jr. and E. L Martin in Macromolecules 4(2) 142-146 (1971)) in 5 mL thionyl chloride was heated at reflux for 1 h. Solvent was removed in vacuo. The residue was added to a solution of 0.176 g (1.66 mmol) sodium carbonate and 0.172 g (1.11 mmol) (R)-4-chloro-α-methylbenzenemethanamine in 6 mL of 1:1 dioxane-water, pre-cooled to 0° C. After stirring at room temperature overnight, the mixture was poured into 50 mL water and extracted two times with 50 mL ethyl acetate (EtOAc). Drying (magnesium sulfate) and removal of the solvent gave an oil which was chromatographed on silica gel, eluting with 25% hexane-dichloromethane, to afford 43 mg of the cis isomer of the title compound: mp 129-130° C., 1H NMR (CDCl3) δ1.49 (d, 3H), 1.69 (s, 3H), 2.86-2.95 (m, 2H), 2.98-3.05 (m, 2H), 5.05-5.12 (q, 1H), 5.86 (s, 1H), 7.20 (d, 2H), 7.32 (d, 2H), and 77 mg of the trans isomer of the title compound: mp 145-146 C, 1H NMR (CDCl3) 1.54 (d, 3H), 1.74 (s, 3H), 1.74 (s, 3H), 2.79-2.86 (m, 2H), 3.13 (d, 2H), 5.14 (q, 1H), 5.85 (s, 1H), 7.23 (d, 2H), 7.31 (d, 2H).

reactant | 3-chloro-3-methyl-1-(trifluoromethyl)cyclobutane carboxylic acid | 1.11 mmol, 0.240 g | ClC1(CC(C1)(C(=O)O)C(F)(F)F)C | C7H8ClF3O2
reactant | sodium carbonate | 1.66 mmol, 0.176 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (R)-4-chloro-α-methylbenzenemethanamine | 1.11 mmol, 0.172 g | ClC1=CC=C(C=C1)[C@H](N)C | C8H10ClN
reactant | water | 50 mL | O | H2O
solvent | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dioxane water | 6 mL | O1CCOCC1.O
product | (R)-3-chloro-N-[1-(4-chlorophenyl)ethyl]-3-methyl-1-(trifluoromethyl)cyclobutanecarboxamide | ClC1(CC(C1)(C(=O)N[C@H](C)C1=CC=C(C=C1)Cl)C(F)(F)F)C | C15H16Cl2F3NO
